US07034039B2
To a solution of tert-butyl(4-butoxy-6-ethoxy-2neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.28 g, 0.6 mmol) in ethyl acetate (5 ml) was added a solution of 4N hydrogen chloride in ethyl acetate (5 ml), and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give 3-(aminomethyl)-4-butoxy-6-ethoxy-2-neopentyl-1(2H)-isoquinolinone hydrochloride (0.23 g, 95.8%) as crystals.

reactant | tert-butyl(4-butoxy-6-ethoxy-2neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.6 mmol, 0.28 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)OCC)=O)CC(C)(C)C)=O | C26H40N2O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-6-ethoxy-2-neopentyl-1(2H)-isoquinolinone hydrochloride | 0.23 g, 95.8% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)OCC)=O)CC(C)(C)C | InChI=1S/C21H32N2O3.ClH/c1-6-8-11-26-19-17-12-15(25-7-2)9-10-16(17)20(24)23(18(19)13-22)14-21(3,4)5;/h9-10,12H,6-8,11,13-14,22H2,1-5H3;1H
